US08404684B2
1-[2-(5-Ethyl-oxazol-2-yl)-ethyl]-3-[5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea
This compound is prepared by oxidation of 1-[2-(5-ethyl-oxazol-2-yl)-ethyl]-3-[4-methyl-5-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-thiazol-2-yl]-urea with m-CPBA (meta-chloroperoxy-benzoic acid) following the protocol used to prepare 5-(2-Methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-ylamine (intermediate AD).

reactant | 1-[2-(5-ethyl-oxazol-2-yl)-ethyl]-3-[4-methyl-5-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-thiazol-2-yl]-urea | C(C)C1=CN=C(O1)CCNC(=O)NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)SC | C18H22N6O2S2
reactant | m-CPBA | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-(2-Methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-ylamine | CS(=O)C1=NC(=CC(=N1)C1=C(N=C(S1)N)C)C | C10H12N4OS2
product | 1-[2-(5-Ethyl-oxazol-2-yl)-ethyl]-3-[5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea | C(C)C1=CN=C(O1)CCNC(=O)NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)S(=O)C | C18H22N6O3S2
